US04219657
Preparation of 8-chloro-dibenzothiophene-3-acetic acid
To a 500 ml. flask, fitted with a condenser and containing a solution of 1.84 g. of sodium hydroxide in 150 ml. of ethanol was added 14 g. of 8-chloro-dibenzothiophene-3-acetic acid ethyl ester. After the solution was refluxed for 1 hour, the solvent was removed in vacuo (steam bath, rotary evaporator), the residue dissolved in 100 ml. of water, and the aqueous solution acidified with dilute hydrochloric acid. The 8-chloro-dibenzothiophene-3-acetic acid was removed by filtration, washed with water and dried at 60° in a vacuum oven overnight. The yield of 8-chloro-dibenzothiophene-3-acetic acid, after crystallization from i-propanol, was 8 g., mp 220°-221°.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 8-chloro-dibenzothiophene-3-acetic acid ethyl ester | C(C)OC(CC=1C=CC2=C(SC3=C2C=C(C=C3)Cl)C1)=O | C16H13ClO2S
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-dibenzothiophene-3-acetic acid | ClC=1C=CC2=C(C3=C(S2)C=C(C=C3)CC(=O)O)C1 | C14H9ClO2S
